US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}ethyl)-2,3-dimethylphenol
Similarly prepared from 5-ethyl-N-[2-(4-methoxy-2,3-dimethylphenyl)ethyl]pyrimidin-2-amine and 3-trifluoromethoxy benzyl bromide.

reactant | 5-ethyl-N-[2-(4-methoxy-2,3-dimethylphenyl)ethyl]pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCC1=C(C(=C(C=C1)OC)C)C | C17H23N3O
reactant | 3-trifluoromethoxy benzyl bromide | FC(OC=1C=C(CBr)C=CC1)(F)F | C8H6BrF3O
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[3-(trifluoromethoxy)benzyl]amino}ethyl)-2,3-dimethylphenol | C(C)C=1C=NC(=NC1)N(CCC1=C(C(=C(C=C1)O)C)C)CC1=CC(=CC=C1)OC(F)(F)F | C24H26F3N3O2
